US06407101B1
A solution of 4-bromo-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1-methyl-1H-pyrrole-2-carbonitrile (70 mg, 0.2 mmol), PhCNPdCl(PPh3)2 (cat., 7 mg) and tetramethyltin (10 eq, 0.35 g, 2 mmol) in HMPA (3 mL) was heated to 110° C. for 5 days. The solution was allowed to cool, poured into water (20 mL) and extracted with ethyl acetate (3×5 mL). The combined organic layer was washed with brine, dried over MgSO4 and purified by flash column chromatography on silica gel eluting with 30% ethyl acetate/hexane to give 5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1,4-dimethyl-1H-pyrrole-2-carbonitrile (36 mg, 63%) as a white solid. 1H NMR (300 MHz, d6-DMSO) δ1.64 (s, 6H), 1.97 (s, 3H), 3.56 (s, 3H), 6.87 (s, 1H), 7.00 (d, 2H, J=8.1 Hz), 7.28 (dd, 1H, J=8.1, 1.6 Hz), 7.32 (s, 1H), 10.40 (s, 1H). MS (ESI (−)) 294 (M−H)−. Anal. calcd for C17H17N3O2, C, 69.1; H, 5.8; N, 14.2. Found: C, 69.1; H, 5.72; N, 14.0.

reactant | 4-bromo-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1-methyl-1H-pyrrole-2-carbonitrile | 0.2 mmol, 70 mg | BrC=1C=C(N(C1C=1C=CC2=C(C(OC(N2)=O)(C)C)C1)C)C#N | C16H14BrN3O2
reactant | tetramethyltin | 2 mmol, 0.35 g, 10 eq | C[Sn](C)(C)C
reactant | water | 20 mL | O | H2O
solvent | HMPA | 3 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1,4-dimethyl-1H-pyrrole-2-carbonitrile | 36 mg, 63% | CC1(OC(NC2=C1C=C(C=C2)C2=C(C=C(N2C)C#N)C)=O)C | C17H17N3O2
